US07482366B2
Palladium catalyst ([1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1), 167 mg, 0.21 mmol), potassium acetate (1.81 g, 18.5 mmol, Aldrich), and bis(pinacolato)diboron (1.56 g, 6.1 mmol) were placed into a vial and degassed with stream of nitrogen for 20 min. In a separate vial, 5-bromo-2-methylsulfanylpyridine (836 mg, 4.1 mmol) was dissolved in 8 ml anhydrous DMSO and degassed with stream of nitrogen for 20 min. The DMSO solution of 5-bromo-2-methylsulfanylpyridine was added to the “catalyst” vial, and then heated at 80° C. overnight. After cooling to ambient temperature, water and ethyl acetate were added to the reaction mixture. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (10→30% EtOAC/Hexane, 0.25% Et3N in hexane) to give 2-methylsulfanyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine as a colorless oil (1.00 g, 97% yield). 1H-NMR (400 MHz, CDCl3): δ 1.35 (s, 12H), 2.58 (s, 3H), 7.16 (dd, 1H, J=1.0, J=8.0), 7.83 (dd, 1H, J=1.8, J=8.0), 8.50 (dd, 1H, J=1.7, J=1.0).

reactant | potassium acetate | 18.5 mmol, 1.81 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 6.1 mmol, 1.56 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 5-bromo-2-methylsulfanylpyridine | 4.1 mmol, 836 mg | BrC=1C=CC(=NC1)SC | C6H6BrNS
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.21 mmol, 167 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | 2-methylsulfanyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine | 1.00 g, 97% yield | CSC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO2S
